Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Left thigh pain 
 
Major Surgical or Invasive Procedure:
Left distal femoral replacement 

 
History of Present Illness:
Mrs. ___ is a ___ female with a history of ovarian 
cancer and bilateral breast cancer who presented to the 
___ clinic with a mass in her left thigh with 
increasing size. She states that she first noticed this a little 
less than a year ago and that especially over the last two to 
three months, the mass has increased greatly in size.  She did 
have some initial
discomfort in the left thigh, but that pain has increased over
the last few months.  She is originally from ___ and was in
___ over the last few months to visit her doctor and in
___ they did MRI and biopsy of her left thigh, which appears
to be diagnosed as a myxofibrosarcoma.  She was offered
amputation in ___ and wanted to follow up here for a second
opinion and alternative treatment options.  She did not receive 
a
CT scan of the chest while in ___.  Other than the pain in
her leg, she denies any other current problems.  No fevers,
chills, weight loss or night pain keeping her awake.  She did
receive radiation to her left breast and right breast for her
breast cancer.  She is also currently taking aromatase 
inhibitors
for assistance with control of the breast cancer. After an 
extensive discussion regarding the risks and benefits of 
surgical vs nonoperative management, the patient elected to 
proceed with resection of the left thigh mass and reconstruction 
with a distal femoral replacement. 
 
Past Medical History:
- History of bilateral breast
cancer
- History of ovarian cancer
- Atrial fibrillation
- Hypothyroidism
- Hypertension
- Gout

 
Social History:
___
Family History:
History of colon cancer on both maternal and paternal sides of 
the
family and osteoporosis
 
Physical Exam:
GEN: Lying in bed, NAD. AOx3, following commands

LLE: Dressing c/d/I. Fires ___, TA, gastroc/soleus. SILT in 
dp/sp/t nerve distributions. Palpable pedal pulse. 
 
Pertinent Results:
___ 09:00AM   WBC-8.7 RBC-4.24 HGB-12.8 HCT-38.2 MCV-90 
MCH-30.2 MCHC-33.5 RDW-13.9 RDWSD-44.9
___ 09:00AM   PLT COUNT-312
 
Brief Hospital Course:
Ms. ___ underwent resection of her left thigh soft tissue 
sarcoma and reconstruction with a distal femoral replacement on 
___. She was admitted to the floor postoperatively in 
stable condition. On POD #1 her hemoglobin was stable. Her 
femoral nerve catheter was discontinued on POD #2 and she was 
fitted for ___ brace locked in extension. On POD #3 she 
worked with ___ and was able to WBAT in the LLE with the ___ 
brace locked in extension at all times. Her INR was monitored 
daily and she was maintained on a lovenox bridge (prophylactic 
dose of lovenox) until her INR reached a goal of 2.0-3.0. The by 
POD #8, the patient's INR remained subtherapeutic at 1.5 on POD 
___ and she was thus transitioned from 1.5 mg of Coumadin daily 
to 2.5 mg daily on POD #7. The patinet's INR remained 
subtherapeutic on POD #8 and the patient will thus be discharged 
on a lovenox bridge with follow up within ___ days at her 
___ clinic for continued monitoring. The patient's Foley 
was d/c'd on POD #2 but was reinserted on POD #4 for urinary 
retention. It was discontinued again on POD #5 and the patient 
was able to urinate on her own volition after its 
discontinuation. At the time of discharge the patient was 
passing flatus but did not have a bowel movement. She was 
tolerating a regular diet and her pain was well-controlled on an 
oral regimen. After working with ___, she was deemed appropriate 
for discharge to home with follow up within ___ days at her 
___ clinic for close monitoring of her INR. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO EVERY OTHER DAY 
2. amLODIPine 2.5 mg PO DAILY 
3. Famotidine 40 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Spironolactone 50 mg PO EVERY OTHER DAY 
6. TraZODone 50 mg PO QHS:PRN for insomnia 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 0.4 ml SQ once a day Disp #*28 
Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*50 Tablet Refills:*0 
5.  Warfarin 2.5 mg PO DAILY 
RX *warfarin [Coumadin] 2.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6.  Allopurinol ___ mg PO EVERY OTHER DAY  
7.  amLODIPine 2.5 mg PO DAILY  
8.  Famotidine 40 mg PO DAILY  
9.  Levothyroxine Sodium 100 mcg PO DAILY  
10.  Spironolactone 50 mg PO EVERY OTHER DAY  
11.  TraZODone 50 mg PO QHS:PRN for insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left thigh soft tissue sarcoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Weightbear as tolerated in your left lower extremity with the 
___ brace locked in extension. Change your dressing on an 
as-needed basis. Please follow up with your ___ clinic in 
___ days after discharge. Follow up with Dr. ___ 2 weeks 
after surgery- please call the clinic if you do not have an 
appointment already scheduled. 
 
Followup Instructions:
___